US08629157B2
Step 1: Synthesis of (S)-1-(5-fluoro-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester
To a pressure tube containing (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (0.5 g, 2.699 mmol), 2-bromo-5-fluoropyridine (0.57 g, 3.239 mmol), cesium carbonate (1.231 g, 3.779 mmol), Xantphos (0.156 g, 0.27 mmol), and tris (dibenzylideneacetone)palladium (0) (0.247 g, 0.27 mmol) is added 13.5 mL degassed anhydrous 1,4-dioxane. The mixture is heated at 120° C. under an atmosphere of Argon overnight. The solution is cooled to room temperature, filtered through Celite®, and concentrated under reduced pressure. The crude material is purified by flash chromatography eluting product with 305 ethyl acetate/heptanes. The product fractions are pooled and concentrated under reduced pressure to afford 45 mg of title compound. Yield 6%. ESI m/z 225=MH+

reactant | (S)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 2.699 mmol, 0.5 g | C(C)(C)(C)OC(=O)[C@H]1NC(CC1)=O | C9H15NO3
reactant | 2-bromo-5-fluoropyridine | 3.239 mmol, 0.57 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | cesium carbonate | 3.779 mmol, 1.231 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.27 mmol, 0.156 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | (S)-1-(5-fluoro-pyridin-2-yl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 45 mg, Yield 6% | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C1=NC=C(C=C1)F | C14H17FN2O3
